US06872833B2
To a stirred solution of 130 mg (0.29 mmol) (±)-2-(3,6-dihydro-2H-pyran-4-yl)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide in 10 ml methanol and 10 ml dichloromethane was added a spatula end of 10% palladium on charcoal and the mixture was then stirred for 16 h at room temperature under an atmosphere of hydrogen. The mixture was then filtered, washing with dichloromethane, and the filtrate concentrated in vacuo. Flash chromatography (2/49/49 methanol/dichloromethane/ethyl acetate) followed by trituration in ether afforded 60 mg (46%) (±)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(tetrahydro-pyran-4-yl)-isonicotinamide as a white crystalline solid. ES-MS m/e (%): 456 (M+H+, 100).

reactant | (±)-2-(3,6-dihydro-2H-pyran-4-yl)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | 0.29 mmol, 130 mg | O1CCC(=CC1)C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C23H23N3O5S
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | palladium on charcoal | [Pd] | Pd
product | (±)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(tetrahydro-pyran-4-yl)-isonicotinamide | 60 mg, 46% | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)C2CCOCC2)=O)OC | C23H25N3O5S
